US05571818
Ethyl 3-cyano-9-hydroxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H-naphtho[1,2-b]pyran-8-carboxylate (1.91 g) was dissolved in THF (10 ml). Water (1 ml) and lithium hydroxide monohydrate (180 mg) were added and the solution stirred at room temperature for 45 minutes. A further quantity of lithium hydroxide (180 mg) was added and the solution heated under reflux for one hour. The solution was poured into water (100 ml) and glacial acetic acid (50 ml) added. Solid sodium chloride was added until no more would dissolve, then the mixture extracted with ethyl acetate (3×200 ml). The combined organic extracts were dried over magnesium sulphate, then solvent removed under reduced pressure to give a brown-yellow solid. This was triturated with ether (10 ml), the solid collected by filtration and dried to yield 3-cyano-9-hydroxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H -naphtho[1,2-b]pyran-8-carboxylic acid, m.p. >230° C.

reactant | Ethyl 3-cyano-9-hydroxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H-naphtho[1,2-b]pyran-8-carboxylate | 1.91 g | C(#N)C=1C(C2=C(OC1N1C=CC=C1)C1=CC(=C(C=C1C=C2)C(=O)OCC)O)C2=CC(=CC=C2)[N+](=O)[O-] | C27H19N3O6
reactant | lithium hydroxide monohydrate | 180 mg | O.[OH-].[Li+]
reactant | lithium hydroxide | 180 mg | [OH-].[Li+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | Water | 1 ml | O | H2O
product | 3-cyano-9-hydroxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H -naphtho[1,2-b]pyran-8-carboxylic acid | C(#N)C=1C(C2=C(OC1N1C=CC=C1)C1=CC(=C(C=C1C=C2)C(=O)O)O)C2=CC(=CC=C2)[N+](=O)[O-] | C25H15N3O6
